US05877120
Preparation of 7-(4,6-dimethoxypyrimidin-2-yl)-4-phenylfuro[3,4-b]pyridin-5(7H)one (Compound No. 246)
1 g of 7-(4,6-dimethoxypyrimidin-2-yl)-7-hydroxy-4-phenylfuro[3,4-b]pyridin-5(7H)one was dissolved in 30 ml of ethanol, and 0.1 g of sodium boron hydride was added thereto at room temperature. The mixture was stirred at room temperature for 6 hours, and the ethanol was distilled off. Ice water was added to the residue, and the mixture was adjusted to pH 2-3 with dilute hydrochloric acid and then extracted with ethyl acetate. The extract was sufficiently washed with water and dried over anhydrous magnesium sulfate, and then the solvent was distilled off. The resulting crude product was purified by silica gel column chromatography to obtain 0.7 g (yield 73%) of the desired compound. m.p.: 151°-153.5° C.

reactant | 7-(4,6-dimethoxypyrimidin-2-yl)-7-hydroxy-4-phenylfuro[3,4-b]pyridin-5(7H)one | 1 g | COC1=NC(=NC(=C1)OC)C1(OC(C=2C1=NC=CC2C2=CC=CC=C2)=O)O | C19H15N3O5
reactant | sodium boron hydride | 0.1 g | B.[Na]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 7-(4,6-dimethoxypyrimidin-2-yl)-4-phenylfuro[3,4-b]pyridin-5(7H)one | 0.7 g, yield 73% | COC1=NC(=NC(=C1)OC)C1OC(C=2C1=NC=CC2C2=CC=CC=C2)=O | C19H15N3O4
